US04504472
Trifluoroacetic acid (32 ml) was added to t-butyl (3RS)-3-acetoxytetradecanoate (14 g) under ice-cooling. The mixture was stirred at the same temperature for 2 hours. The mixture was concentrated under reduced pressure to give a residue. The residue was dissolved in a mixture of benzene and toluene, and concentrated under reduced pressure to give (3RS)-3-acetoxytetradecanoic acid (10.0 g).

reactant | Trifluoroacetic acid | 32 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | t-butyl (3RS)-3-acetoxytetradecanoate | 14 g | C(C)(=O)OC(CC(=O)OC(C)(C)C)CCCCCCCCCCC | C20H38O4
solvent | benzene | C1=CC=CC=C1 | C6H6
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | (3RS)-3-acetoxytetradecanoic acid | 10.0 g | C(C)(=O)OC(CC(=O)O)CCCCCCCCCCC | C16H30O4
